US05262390
With a mortar and pestle 10.40 g (0.100 mole) of malonic acid and 18.00 g (0.210 mole) of ethyl carbamate were ground to a fine powder. This powder was placed in a flask, and 16.0 mL (0.167 mole) of phosphorus oxychloride was added. This mixture was heated at 80° C. until the evolution of gas ceased. After this reaction mixture had cooled to ambient temperature, 210 mL of water was added. When the stiff glassy mixture became fluid, it was extracted with ethyl acetate. The combined extracts were washed in succession with saturated aqueous solutions of sodium bicarbonate and sodium chloride and were then dried over anhydrous magnesium sulfate and filtered. The solution was filtered through a short column of silica gel, which was eluted with ethyl acetate. The solvent was then evaporated under reduced pressure, leaving a crystalline mass of malonyldiurethane weighing 10.62 g. The NMR spectrum was consistent with the proposed structure.

reactant | malonic acid | 0.100 mole, 10.40 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | ethyl carbamate | 0.210 mole, 18.00 g | C(N)(OCC)=O | C3H7NO2
reactant | phosphorus oxychloride | 0.167 mole, 16.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | 210 mL | O | H2O
product | malonyldiurethane | 10.62 g | C(CC(=O)NC(=O)OCC)(=O)NC(=O)OCC | C9H14N2O6
